US08557832B2
To a solution of 6-bromo-3-[(1S,2S)-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one 0.300 g, 0.804 mmol) in 6.5 mL of toluene was added bis(pinacolato)diboron (0.225 g, 0.884 mmol), potassium acetate (0.158 g, 1.61 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II), 1:1 complex with DCM (0.029 g, 0.040 mmol) under an atmosphere of nitrogen. The mixture was irradiated in a microwave reactor at 150° C. for 90 min, cooled to rt and diluted with ethyl acetate. The organic solution was washed twice with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-50% ethyl acetate in hexanes, to provide 3-[(1S,2S)-2-hydroxycyclohexyl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[h]quinazolin-4(3H)-one that gave a mass ion (ES+) of 421.0 for [M+H]+.

reactant | 6-bromo-3-[(1S,2S)-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | 0.804 mmol, 0.300 g | BrC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](CCCC2)O)=O | C18H17BrN2O2
reactant | bis(pinacolato)diboron | 0.884 mmol, 0.225 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.61 mmol, 0.158 g | C(C)(=O)[O-].[K+]
reactant | DCM | 0.040 mmol, 0.029 g | C(Cl)Cl | CH2Cl2
solvent | toluene | 6.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[(1S,2S)-2-hydroxycyclohexyl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[h]quinazolin-4(3H)-one | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)B1OC(C(O1)(C)C)(C)C)C=CC=C3 | C24H29BN2O4
